US03969506
To a solution of 3.2 kgs. isatoic anhydride in 15 kgs. dimethylacetamide is added under nitrogen with stirring sodium hydride obtained from 880 gms. of a 57% dispersion in mineral oil, while maintaining the temperature below 25°C. The resulting mixture is heated to about 60°C. and held at about 55°-60°C. for 1 hour. The reaction mixture is then cooled to 20°-30°C. and to it is added 3.0 kgs. p-fluorobenzyl chloride. The mixture is then reheated to about 60°C. and held there for about 4 hours. It is then cooled again to 20°C. and to it is added 17.4 kgs. of ice and then 24 kgs. water. The mixture is stirred for 15 minutes, the solids collected by filtration, washed with several 2 kg. portions of water and then three times with 0.7 kg. diethylether. The washed solids are dried to obtain N-(p-fluorobenzyl)isatoic anhydride, m.p. 140°-143°C.

reactant | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | dimethylacetamide | CC(=O)N(C)C | C4H9NO
reactant | sodium hydride | [H-].[Na+]
reactant | p-fluorobenzyl chloride | FC1=CC=C(CCl)C=C1 | C7H6ClF
solvent | water | O | H2O
product | N-(p-fluorobenzyl)isatoic anhydride | FC1=CC=C(CN2C=3C(C(=O)OC2=O)=CC=CC3)C=C1 | C15H10FNO3
